US08003651B2
Boc anhydride (3.0 g, 13.7 mmol) was added to a solution of (3S,4R)-methyl 4-(3,4-dichlorophenyl)pyrrolidine-3-carboxylate (3.10 g, 11.3 mmol) in THF (100 mL) and TEA (4 mL) was added. The mix was stirred at room temperature overnight. The solvent was removed and the residue was subject to column chromatography, eluted by hexane/ethyl acetate (8:1) to give (3S,4R)-1-tert-butyl 3-methyl 4-(3,4-dichlorophenyl)pyrrolidine-1,3-dicarboxylate (LCMS (APCI+) [M-Boc+H]+ 274.1; Rt: 4.17 min.). The (3S,4R)-1-tert-butyl 3-methyl 4-(3,4-dichlorophenyl)pyrrolidine-1,3-dicarboxylate was re-dissolved in MeOH (50 mL), and LiOH (3M, 10 mL) was added. The mixture was stirred at room temperature for 6 hours. 2N HCl (15 mL) was added to the mixture. The solvent was removed, and the residue was subject to column chromatography, eluted by DCM/MeOH (40:1-10:1) to give (3S,4R)-1-(tert-butoxycarbonyl)-4-(3,4-dichlorophenyl)pyrrolidine-3-carboxylic acid (1.95 g). LCMS (APCI+) [M-Boc+H]+ 260.1; Rt: 3.67 min.

reactant | Boc anhydride | 13.7 mmol, 3.0 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (3S,4R)-methyl 4-(3,4-dichlorophenyl)pyrrolidine-3-carboxylate | 11.3 mmol, 3.10 g | ClC=1C=C(C=CC1Cl)[C@H]1[C@@H](CNC1)C(=O)OC | C12H13Cl2NO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (3S,4R)-1-tert-butyl 3-methyl 4-(3,4-dichlorophenyl)pyrrolidine-1,3-dicarboxylate | ClC=1C=C(C=CC1Cl)[C@H]1[C@@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC | C17H21Cl2NO4
